US06376499B1
Step B: 2-Chloro-3,5-dicyanopyridine
Acetic acid (37 mL) was added over 10 min to sodium nitrite (13.4 g, 0.194 mol) with stirring. Concentrated sulfuric acid (12.3 mL) was added over 5 min to the resulting thick slurry which was then cooled to 0° C. In a separate flask, pyridinium hydrochloride (14.4 g, 0.125 mol) was added to a stirred mixture of 2-amino-3,5-dicyanopyridine (4.0 g, 27.75 mmol) in acetic acid (55 mL) and the resulting mixture was cooled to 0° C. to give a thick slurry. The nitrite slurry was added to the aminopyridine slurry over 5 min with stirring at 0° C. Acetic acid (50 mL) was added and the thick slurry was warmed to rt. After 1 h at rt the mixture was warmed to 50° C. and after a further 1 h, it was poured into an ice/water mixture (500 mL). The aqueous mixture was extracted with methylene chloride (4 times) and the combined extracts were dried (Na2SO4) and evaporated to a yellow solid. The crude product was purified by chromatography on silica (chloroform/methanol gradient, 1-3% methanol) to give the title compound as a solid:

reactant | sodium nitrite | 0.194 mol, 13.4 g | N(=O)[O-].[Na+]
reactant | sulfuric acid | 12.3 mL | S(O)(O)(=O)=O | H2O4S
reactant | pyridinium hydrochloride | 0.125 mol, 14.4 g | Cl.[NH+]1=CC=CC=C1
reactant | 2-amino-3,5-dicyanopyridine | 27.75 mmol, 4.0 g | NC1=NC=C(C=C1C#N)C#N | C7H4N4
reactant | nitrite | N(=O)[O-]
reactant | aminopyridine | NC1=NC=CC=C1 | C5H6N2
solvent | acetic acid | 55 mL | C(C)(=O)O | C2H4O2
solvent | Acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | Acetic acid | 37 mL | C(C)(=O)O | C2H4O2
product | 2-Chloro-3,5-dicyanopyridine | ClC1=NC=C(C=C1C#N)C#N | C7H2ClN3
